US07238713B2
n-BuLi in heptanes (1.5 ml, 2.4 mmol, 1.6M) was added drop wise to 5-fluoro-3-methyl-benzo[b]thiophene (332 mg, 2.0 mmol) in THF (5 ml) at −20° C. under argon. The reaction mixture was stirred at −15° C. for 30 min, then 1-chloro-3-iodopropane (322 μl, 3.0 mmol) and copper (1) iodide (38 mg, 0.2 mmol) were added. The reaction was stirred at −15° C. for 1 h, then NH4Cl (sat'd aq., 5 ml) was added. The product was extracted with diethyl ether (2×30 ml) and the organic layer was washed with brine (10 ml), dried (K2CO3), filtered and concentrated in vacuo. The product was purified by column chromatography (0–1% diethyl ether in heptanes) to give 2-(3-chloro-propyl)-5-fluoro-3-methyl-benzo[b]thiophene (180 mg, 37%). 1H NMR (CDCl3): δ 2.19 (tt, 2H), 2.22 (s, 3H), 2.94 (t, 2H), 3.57 (t, 2H), 7.04 (dt, 1H), 7.28 (dd, 1H), 7.66 (dd, 1H).

reactant | n-BuLi | [Li]CCCC
reactant | 5-fluoro-3-methyl-benzo[b]thiophene | 2.0 mmol, 332 mg | FC1=CC2=C(SC=C2C)C=C1 | C9H7FS
reactant | 1-chloro-3-iodopropane | 3.0 mmol, 322 μl | ClCCCI | C3H6ClI
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | copper (1) iodide | 0.2 mmol, 38 mg | [Cu]I
product | 2-(3-chloro-propyl)-5-fluoro-3-methyl-benzo[b]thiophene | 180 mg, 37% | ClCCCC1=C(C2=C(S1)C=CC(=C2)F)C | C12H12ClFS
